* source B2
V_V1         N00172 0 10Vdc
R_R1         N00172 N00179  1k TC=0,0 
R_R2         0 N00179  2k TC=0,0 
R_R3         0 N00179  4k TC=0,0 
L_L1         N00183 N00179  1mH IC=0 
X_U1         0 N00183 Sw_tClose PARAMS: tClose=5 ttran=1u Rclosed=0.01
+  Ropen=10000Meg
